US06323223B1
p-Toluoyl chloride (0.077 ml, 0.58 mmol) was added to a solution of 1(RS)-[1-(3,4-dichlorobenzyl)piperidin-4-ylmethyl]-2-methylpropylamine (0.16 g, 0.49 mmol) in dichloromethane (2 ml) and triethylamine (0.12 ml, 1.63 mmol). The reaction mixture was stirred at room temperature for 1.5 h and was quenched with water. The product was then extracted with dichloromethane and the organic layer was washed with brine and dried over sodium sulfate. The crude product was purified on preparative TLC with 25% acetone, 25% dichloromethane in hexanes to give 0.21 g of N-{1-[1(RS)-[1-(3,4-dichlorobenzyl)piperidin-4-ylmethyl]-2-methylpropyl}-4-methylbenzamide as an oil, which was then converted to its dihydrochloride salt (0.15 g); m.p. 233.9-235.5° C.

reactant | p-Toluoyl chloride | 0.58 mmol, 0.077 ml | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | 1(RS)-[1-(3,4-dichlorobenzyl)piperidin-4-ylmethyl]-2-methylpropylamine | 0.49 mmol, 0.16 g | ClC=1C=C(CN2CCC(CC2)CC(C(C)C)N)C=CC1Cl | C17H26Cl2N2
reactant | triethylamine | 1.63 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-[1(RS)-[1-(3,4-dichlorobenzyl)piperidin-4-ylmethyl]-2-methylpropyl}-4-methylbenzamide | 0.21 g | ClC=1C=C(CN2CCC(CC2)CC(C(C)C)C2(C(=O)N)CC=C(C=C2)C)C=CC1Cl | C25H34Cl2N2O
